US04251659
A mixture of 14.5 g (0.05 mole) of 1-benzhydryl-indoline, 100 ml of toluene, 2 ml of water, and 10.9 g (0.055 mole) of 1,3-dichlorotetrafluoroacetone is refluxed for 3 hrs. Another 10.9 g portion of 1,3-dichlorotetrafluoroacetone is added, and refluxing is continued for 13 hrs. The moisture is then removed azeotropically, and the solvent is evaporated to give a crude, viscous residue of 1-benzhydryl-α,α-bis(chlorodifluoromethyl)-2,3-dihydro-1H-indole-5-methanol. This crude material is tedious to purify and is more conveniently used without further purification for conversion to the desired product.

reactant | 1-benzhydryl-indoline | 0.05 mole, 14.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCC2=CC=CC=C12 | C21H19N
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1,3-dichlorotetrafluoroacetone | 0.055 mole, 10.9 g | ClC(C(=O)C(Cl)(F)F)(F)F | C3Cl2F4O
solvent | water | 2 ml | O | H2O
product | 1-benzhydryl-α,α-bis(chlorodifluoromethyl)-2,3-dihydro-1H-indole-5-methanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)C(O)(C(F)(F)Cl)C(F)(F)Cl | C24H19Cl2F4NO
